US08071592B2
7-(Methoxy)-1-(2-propen-1-yl)-1,5-naphthyridin-2(1H)-one (5.046 g, 23.361 mmol) was dissolved in 1,4-dioxane (100 mL) and water (100 mL). Sodium periodate (12.49 g, 58.402 mmol) was added, followed by osmium tetroxide (5 mL of 4% aqueous solution). The mixture stirred at rt for 1 h, water (200 ml) was added the mixture was stirred for a further 1 h. The reaction was concentrated to about 300 ml and extracted with 20% MeOH/DCM (3×400 ml). The organic extracts were combined, dried over anhydrous magnesium sulphate, filtered and evaporated under reduced pressure to give [7-(methoxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]acetaldehyde (as the methyl hemiacetal) as a yellow solid (3.807 g, 75%).

reactant | 7-(Methoxy)-1-(2-propen-1-yl)-1,5-naphthyridin-2(1H)-one | 23.361 mmol, 5.046 g | COC1=CN=C2C=CC(N(C2=C1)CC=C)=O | C12H12N2O2
reactant | Sodium periodate | 58.402 mmol, 12.49 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
catalyst | osmium tetroxide | 5 mL | [Os](=O)(=O)(=O)=O
solvent | water | 200 ml | O | H2O
product | [7-(methoxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]acetaldehyde | COC1=CN=C2C=CC(N(C2=C1)CC=O)=O | C11H10N2O3
